US04902725
2,2-bis(4-hydroxyphenyl)propane (bisphenol-A);
2,2-bis(3,5-dibromo-4-hydroxyphenyl)propane; 2,2-bis(3,5-dimethyl-4-hydroxyphenyl)propane; 1,1-bis(4-hydroxyphenyl)cyclohexane; 1,1-bis(3,5-dimethyl-4-hydroxyphenyl)cyclohexane; 1,1-bis(4-hydroxyphenyl)decane; 1,4-bis(4-hdroxyphenyl)propane; 1,1-bis(4-hydroxyphenyl)cyclododecane; 1,1-bis(3,5-dimethyl-4-hydroxyphenyl)cyclododecane; 4,4'-thiodiphenol; and bis(4-hydroxyphenyl)ether.

reactant | 2,2-bis(3,5-dibromo-4-hydroxyphenyl)propane | BrC=1C=C(C=C(C1O)Br)C(C)(C)C1=CC(=C(C(=C1)Br)O)Br | C15H12Br4O2
reactant | 2,2-bis(3,5-dimethyl-4-hydroxyphenyl)propane | CC=1C=C(C=C(C1O)C)C(C)(C)C1=CC(=C(C(=C1)C)O)C | C19H24O2
reactant | 1,1-bis(4-hydroxyphenyl)cyclohexane | OC1=CC=C(C=C1)C1(CCCCC1)C1=CC=C(C=C1)O | C18H20O2
reactant | 1,1-bis(3,5-dimethyl-4-hydroxyphenyl)cyclohexane | CC=1C=C(C=C(C1O)C)C1(CCCCC1)C1=CC(=C(C(=C1)C)O)C | C22H28O2
reactant | 1,1-bis(4-hydroxyphenyl)decane | OC1=CC=C(C=C1)C(CCCCCCCCC)C1=CC=C(C=C1)O | C22H30O2
reactant | 1,1-bis(4-hydroxyphenyl)cyclododecane | OC1=CC=C(C=C1)C1(CCCCCCCCCCC1)C1=CC=C(C=C1)O | C24H32O2
reactant | 1,1-bis(3,5-dimethyl-4-hydroxyphenyl)cyclododecane | CC=1C=C(C=C(C1O)C)C1(CCCCCCCCCCC1)C1=CC(=C(C(=C1)C)O)C | C28H40O2
reactant | 4,4'-thiodiphenol | S(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C12H10O2S
reactant | bis(4-hydroxyphenyl)ether | OC1=CC=C(C=C1)OC1=CC=C(C=C1)O | C12H10O3
product | 2,2-bis(4-hydroxyphenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
